US04490388
Example 4 Synthesis of 4-(β-amidinoethenyl)phenyl 6-benzyloxycarbonylaminocaproate.
To a solution of 4.5 g of 6-benzyloxycarbonylaminocaproic acid in 45 ml of dried pyridine, while being cooled in ice, was added 4.2 g of DCC. After 30 minutes of stirring, 4.4 g of 4-(β-amidinoethenyl)phenol methanesulfonate was added to the solution and stirred overnight at room temperature. The reaction mixture was freed from the precipitated DCU by filtration and the DCU was washed with pyridine. Ethyl ether was added to the combined filtrate to precipitate an oily substance. The oily substance was separated from the supernatant, washed a few times with ethyl ether, and dissolved in ethanol. Ethyl ether was added to the ethanol solution to precipitate a white solid substance which on recrystallization from an ethanol-ethyl ether mixture yielded 4.8 g of colorless granular crystals of 4-(β-amidinoethenyl)phenyl 6-benzyloxycarbonylaminocaproate methanesulfonate.

reactant | 6-benzyloxycarbonylaminocaproic acid | 4.5 g | C(C1=CC=CC=C1)OC(=O)NCCCCCC(=O)O | C14H19NO4
reactant | DCC | 4.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-(β-amidinoethenyl)phenol methanesulfonate | 4.4 g | CS(=O)(=O)OC1=CC=C(C=C1)C=CC(N)=N | C10H12N2O3S
solvent | pyridine | 45 ml | N1=CC=CC=C1 | C5H5N
product | 4-(β-amidinoethenyl)phenyl 6-benzyloxycarbonylaminocaproate | 4.8 g | C(C1=CC=CC=C1)OC(=O)NCCCCCC(=O)OC1=CC=C(C=C1)C=CC(N)=N | C23H27N3O4
